US09227970B2
1-Methyl-N-(2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-4-(pyrrolidine-1-carbonyl)-1H-pyrazole-5-carboxamide
Using pyrrolidine and 1-methyl-5-(2-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid, the title compound was prepared in the same manner as described for example 2. White solid (53 mg, 33%). Mp.: 251° C. MS: m/z=417.3 (M+H+).

reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 1-methyl-5-(2-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | CN1N=CC(=C1C(NC=1C=CC=2N(C1)N=C(N2)C=2C=NC=CC2)=O)C(=O)O | C17H13N7O3
product | 1-Methyl-N-(2-(pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-yl)-4-(pyrrolidine-1-carbonyl)-1H-pyrazole-5-carboxamide | CN1N=CC(=C1C(=O)NC=1C=CC=2N(C1)N=C(N2)C=2C=NC=CC2)C(=O)N2CCCC2 | C21H20N8O2
